US05434150
2-(3-Guanidino-phenyl)-5-[(3-methoxycarbonyl-propyl)-aminocarbonyl]-1-methyl-benzimidazole
Prepared from 2-(3-amino-phenyl)-5-[(3-methoxycarbonyl-propyl)-aminocarbonyl]-1-methyl-benzimidazole-hydrochloride by refluxing for 3 hours with cyanamide in dioxane.

reactant | 2-(3-amino-phenyl)-5-[(3-methoxycarbonyl-propyl)-aminocarbonyl]-1-methyl-benzimidazole-hydrochloride | Cl.NC=1C=C(C=CC1)C1=NC2=C(N1C)C=CC(=C2)C(=O)NCCCC(=O)OC
reactant | cyanamide | N#CN | CH2N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(3-Guanidino-phenyl)-5-[(3-methoxycarbonyl-propyl)-aminocarbonyl]-1-methyl-benzimidazole | N(C(=N)N)C=1C=C(C=CC1)C1=NC2=C(N1C)C=CC(=C2)C(=O)NCCCC(=O)OC | C21H24N6O3
